US07449586B2
(R)-Methyl-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)-3-(7-methyl-1H-indazol-5-yl)propanoate
To a solution of (R)-methyl 2-amino-3-(7-methyl-1H-indazol-5-yl)propanoate (1.07 g, 4 mmol) and diisopropylethylamine (2.09 mL, 12 mmol) in dimethylformamide (15 mL) at room temperature was added N,N-disuccinimidyl carbonate (0.52 g, 4 mmol). The resulting mixture was stirred at room temperature for 30 min and treated with 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one (0.92 g, 4 mmol) in portions. The reaction was stirred for 24 h. The mixture was concentrated, and the residue was purified by flash chromatography (silica gel, 30:1 dichloromethane/methanol 60:1, 30:1) to give 2 g (100%). Mass spec.: 491.38 (MH)+, HPLC tR=2.25.

reactant | (R)-methyl 2-amino-3-(7-methyl-1H-indazol-5-yl)propanoate | 4 mmol, 1.07 g | N[C@@H](C(=O)OC)CC=1C=C2C=NNC2=C(C1)C | C12H15N3O2
reactant | diisopropylethylamine | 12 mmol, 2.09 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-disuccinimidyl carbonate | 4 mmol, 0.52 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 4 mmol, 0.92 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (R)-Methyl-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)-3-(7-methyl-1H-indazol-5-yl)propanoate | COC([C@@H](CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C26H30N6O4
